US04507211
Step (a) Preparation of Allylnonylphenyl Ether
Commercially available nonylphenol was mixed with 300 g isopropyl alcohol and 60 g of 50% NaOH to give a homogeneous solution. Allyl chloride (80 ml=1.2 equiv.) was added dropwise at 40° C. over 20 minutes. The mixture was digested five hours at 75° C. Water, 150 g, was added to dissolve the precipitated salt. The resulting mixture separated into two phases. The top layer was stripped of solvent to give 197 g crude product of hydroxyl value 0.19 meq/g. Conversion was calculated to be 95%.

reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | isopropyl alcohol | 300 g | C(C)(C)O | C3H8O
reactant | NaOH | 60 g | [OH-].[Na+]
reactant | Allyl chloride | 80 ml, 1.2 equiv. | C(C=C)Cl | C3H5Cl
solvent | Water | O | H2O
product | Allylnonylphenyl Ether | 197 g | C(C=C)CCCCCCCCCOC1=CC=CC=C1 | C18H28O
